US06989392B2
5-acetyl-2-((4-((2-aminoquinolin-8-yl)oxy)pentyl)oxy)benzamide
The title compound was prepared according to the procedure described in Example 92 substituting 5-acetyl-2-hydroxybenzamide for methyl 3-hydroxybenzoate. 1H NMR (500 MHz, CDCl3) δ ppm 8.66 (d, 1H), 8.06 (dd, 1H), 7.96 (d, 1H), 7.32 (t, 1H), 7.22 (m, 1H), 7.12 (d, 1H), 7.04 (d, 1H), 6.97 (d, 1H), 4.71 (m, 1H), 4.38 (m, 1H), 4.26 (m, 1H), 2.58 (s, 3H), 2.24 (m, 2H), 1.92–2.13 (m, 2H), 1.48 (d, 3H); MS (DCI/NH3) m/z 408 [M+H]+.

reactant | 5-acetyl-2-hydroxybenzamide | C(C)(=O)C=1C=CC(=C(C(=O)N)C1)O | C9H9NO3
reactant | methyl 3-hydroxybenzoate | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | NH3 | N | H3N
product | 5-acetyl-2-((4-((2-aminoquinolin-8-yl)oxy)pentyl)oxy)benzamide | C(C)(=O)C=1C=CC(=C(C(=O)N)C1)OCCCC(C)OC=1C=CC=C2C=CC(=NC12)N | C23H25N3O4
